US06833456B2
Step (ii) Benzyl (4R)-3-fluoro-4-methoxypyrrolidine-1-carboxylate
To a solution of benzyl (3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-carboxylate (0.818 g, 3.26 mmol) in 20 mL CH2Cl2 at −20° C. was added DAST (0.946 mL, 7.16 mmol). The reaction mixture was stirred at −20 ° C. and then room temperature overnight. The reaction mixture was quenched with 30 mL half saturated NaHCO3, stirred at room temperature for 15 min and extracted with EtOAc (2×30 mL). The organic layer was dried and concentrated. The residue was purified by flash column chromatography (25% EtOAc in Hexane) to give pale yellow solid (0.551 g, 67%). 1H NMR (CDCl3) δ 7.36-7.29 (5H, m), 5.13 (2H, s), 5.09, 4.92 (1H, m), 3.95-3.91 (1H, m), 3.74-3.35 (4H, m), 3.37 (3H, s).

reactant | benzyl (3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-carboxylate | 3.26 mmol, 0.818 g | O[C@@H]1CN(C[C@H]1OC)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | DAST | 7.16 mmol, 0.946 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Benzyl (4R)-3-fluoro-4-methoxypyrrolidine-1-carboxylate | 0.551 g, 67% | FC1CN(C[C@H]1OC)C(=O)OCC1=CC=CC=C1 | C13H16FNO3
